US05162308
Preparation of 3,4,5-Tribromo-1-methyl-pyrrole-2-carbonitrile
3,4,5-Tribromo-pyrrole-2-carbonitrile (1.0 g, 0.003 mol) is dissolved in a mixture of acetone and dimethoxyethane. Potassium carbonate (0.45 g, 0.0033 mol) is added followed by methyl iodide (0.478 g, 0.0033 mol). After stirring overnight at room temperature, the reaction mixture is poured into water and filtered. The filter cake is air dried to give the title compound as a white solid, 0.8 g (80%), mp 115°-119° C.

reactant | 3,4,5-Tribromo-pyrrole-2-carbonitrile | 0.003 mol, 1.0 g | BrC1=C(NC(=C1Br)Br)C#N | C5HBr3N2
reactant | Potassium carbonate | 0.0033 mol, 0.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.0033 mol, 0.478 g | CI | CH3I
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 3,4,5-Tribromo-1-methyl-pyrrole-2-carbonitrile | BrC1=C(N(C(=C1Br)Br)C)C#N | C6H3Br3N2
